US07582646B2
Preparation of 4-{4-[(2-amino-6-phenylpyrimidin-4-yl)amino]phenoxy }-N-(2-methoxyethyl)pyridine-2-carboxamide
This material was prepared by a method analogous to that described for Example 21, starting from 4-{4-[(2-amino-6-phenylpyrimidin-4-yl)amino] phenoxy}pyridine-2-carboxylic acid and 2-methoxyethylamine.

reactant | 4-{4-[(2-amino-6-phenylpyrimidin-4-yl)amino] phenoxy}pyridine-2-carboxylic acid | NC1=NC(=CC(=N1)NC1=CC=C(OC2=CC(=NC=C2)C(=O)O)C=C1)C1=CC=CC=C1 | C22H17N5O3
reactant | 2-methoxyethylamine | COCCN | C3H9NO
product | 4-{4-[(2-amino-6-phenylpyrimidin-4-yl)amino]phenoxy }-N-(2-methoxyethyl)pyridine-2-carboxamide | NC1=NC(=CC(=N1)NC1=CC=C(OC2=CC(=NC=C2)C(=O)NCCOC)C=C1)C1=CC=CC=C1 | C25H24N6O3
